US07799810B2
Step 1: [2-(Isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester
A mixture comprising BOC-β-alanine (1 g, 5.29 mmol), WSCD (0.985 g, 6.34 mmol) and HOAT (0.216 g, 1.59 mmol) in DCM is treated with 3-aminoisoxazole (0.43 ml, 5.81 mmol) and left stirring overnight. The resulting mixture is washed with water, brine, dried (MgSO4) and concentrated in vacuo. The crude product is purified by chromatography on silica eluting with EtOAc to afford the title compound as a white solid.

reactant | BOC-β-alanine | 5.29 mmol, 1 g | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | HOAT | 1.59 mmol, 0.216 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 3-aminoisoxazole | 5.81 mmol, 0.43 ml | NC1=NOC=C1 | C3H4N2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [2-(Isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(NC1=NOC=C1)=O)=O | C11H17N3O4
